US06686352B2
a) 5,7-Dihydro-10-methyl-2-(1-methylethyl)-6H-pyrimido[5,4-d][1]benzazepin-6-one
Analogous to Scheme 1 from 4-[(dimethylamino)methylene]-3,4-dihydro-7-methyl-1H-benzazepine-2,5-dione and isobutyramidine hydrochloride. Yield: 91%.

reactant | 4-[(dimethylamino)methylene]-3,4-dihydro-7-methyl-1H-benzazepine-2,5-dione | CN(C)C=C1CC(NC2=C(C1=O)C=C(C=C2)C)=O | C14H16N2O2
reactant | isobutyramidine hydrochloride | Cl.C(C(C)C)(=N)N
product | 5,7-Dihydro-10-methyl-2-(1-methylethyl)-6H-pyrimido[5,4-d][1]benzazepin-6-one | Yield: 91% | CC=1C=CC2=C(C3=C(CC(N2)=O)C=NC(=N3)C(C)C)C1 | C16H17N3O
